US06610701B2
Step A: 5,6-Diaminonicotinic acid
See Markwald, W. Chem. Ber. 1984, 27, 1317. To a stirred solution of SnCl2 (4.16 g, 22.0 mmol) in concentrated HCl (11 mL) at 0° C. was added in portions 5-nitro-6-aminonicotinic acid (1.01 g, 5.5 mmol). The resulting orange mixture was then heated to 100° C. under argon for 75 min. The mixture was then cooled to RT and was then placed in an ice bath and neutralized with concentrated aqueous ammonia (to pH 6-7), resulting in a thick cream-colored mixture. The mixture was then acidified to pH 4 with acetic acid and the precipitate collected by filtration, washed with H2O and dried under vacuum overnight to afford the title compound: 1H NMR (300 MHz, DMSO-d6): δ7.98 (d, J=2.1 Hz, 1H), 7.21 (d, J=2.1 Hz, 1H), 6.24 (br s, 2H), 5.00 (br s, 2H).

reactant | SnCl2 | 22.0 mmol, 4.16 g | Cl[Sn]Cl
reactant | 5-nitro-6-aminonicotinic acid | 5.5 mmol, 1.01 g | [N+](=O)([O-])C=1C(=NC=C(C(=O)O)C1)N | C6H5N3O4
reactant | ammonia | pH 6-7 | N | H3N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | HCl | 11 mL | Cl | ClH
product | 5,6-Diaminonicotinic acid | NC=1C(=NC=C(C(=O)O)C1)N | C6H7N3O2
